US05574064
Synthesis of N1 -[2-(4-cyanophenoxy)-1-methylethyl)-N2 -(3-tetrahydrofuranyl)oxycarbonyl-L-valinamide (Compound No. 376)
1.0 g of N-methylmorpholine, and subsequently 0.7 g of 3-tetrahydrofuranyl chloroformate were added to a suspension containing 1.5 g of N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide hydrochloride suspended in 100 ml of methylene chloride at -20° C. The mixture was allowed to sit and warm naturally to room temperature and stirred for 2 hours at room temperature. Water was subsequently added to the reaction mixture. After the dichloromethane layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and then the methylene chloride was removed under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 1.1 g of the desired product in the form of white powder (yield: 61%).

reactant | N-methylmorpholine | 1.0 g | CN1CCOCC1 | C5H11NO
reactant | 3-tetrahydrofuranyl chloroformate | 0.7 g | ClC(=O)OC1COCC1 | C5H7ClO3
reactant | N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide hydrochloride | 1.5 g | Cl.C(#N)C1=CC=C(OCC(C)NC([C@@H](N)C(C)C)=O)C=C1
reactant | Water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N1 -[2-(4-cyanophenoxy)-1-methylethyl)-N2 -(3-tetrahydrofuranyl)oxycarbonyl-L-valinamide | 1.1 g | C(#N)C1=CC=C(OCC(C)NC([C@@H](NC(=O)OC2COCC2)C(C)C)=O)C=C1 | C20H27N3O5
